US09108957B2
To a suspension of lithium aluminum hydride (0.76 g, 20 mmol) in cyclopentylmethylether (20 mL) was added a solution of 3-benzylamino-butyric acid ethyl ester (2.10 g, 9.5 mmol) in cyclopentylmethylether (10 mL) dropwise at 0° C. under nitrogen atmosphere. The resulting mixture was warmed to room temperature and stirred for 3 hours. Then small amount of sodium sulfate saturated aqueous solution was added dropwise to quench the reaction at 0° C. and stirred for one hour. The resulting solid material was removed by filtration and the organic solution was concentrated to yield 3-benzylamino-butan-1-ol (1.49 g, 8.3 mmol, 87%) as colorless oil. The oil was used in the subsequent step without further purification.

reactant | lithium aluminum hydride | 20 mmol, 0.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-benzylamino-butyric acid ethyl ester | 9.5 mmol, 2.10 g | C(C)OC(CC(C)NCC1=CC=CC=C1)=O | C13H19NO2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | cyclopentylmethylether | 20 mL | C1(CCCC1)OC | C6H12O
solvent | cyclopentylmethylether | 10 mL | C1(CCCC1)OC | C6H12O
product | 3-benzylamino-butan-1-ol | 8.3 mmol, 1.49 g, 87% | C(C1=CC=CC=C1)NC(CCO)C | C11H17NO
